US04980360
To a stirred solution of 1,7-dibromoheptane (49 g, 0.18 mol) (Aldrich) in THF (300 ml), at -30° C. to -40° C., under N2, was added, dropwise, during 3 h, a solution of phenyllithium (15 g, 0.18 mol) in cyclohexane-ether (2.0 M solution, Aldrich). The reaction was allowed to stir at -10° C. to -20° C. for 3 h and at room temperature overnight. After slow, careful dilution with H2O (50 ml), the aqueous layer was extracted with Et2O (2×150 ml). The extracts and the organic layer were combined, dried (Na2SO4) and concentrated to a yellow oil. Distillation through a Vigreaux column provided 22.5 g of 1-bromo-7-phenylheptane, bp 84°-88° C. (0.2 mm), nD24 1.5220.

reactant | 1,7-dibromoheptane | 0.18 mol, 49 g | BrCCCCCCCBr | C7H14Br2
reactant | phenyllithium | 0.18 mol, 15 g | C1(=CC=CC=C1)[Li]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-bromo-7-phenylheptane | 22.5 g | BrCCCCCCCC1=CC=CC=C1 | C13H19Br
